US05716948
g) (3S,4R)-1-(4-Methoxyphenyl)-4-[3-oxo-3-[(S)-tetrahydrofuran-2-yl]propyl]-3-phenylacetamidoazetidin-2-one
A solution of (3S,4R)-1-(4-methoxyphenyl)-4-[3-oxo-3-[(S)-tetrahydro-furan-2-yl]propenyl]-3-phenylacetamidoazetidin-2-one (12.1 g, 27.9 mmol) in tetrahydrofuran (250 ml) was hydrogenated over 10% palladium on carbon (1.0 g) for 3h. After filtration through celite, the partially insoluble product was dissolved in dichloromethane and methanol (1: 1) and re-filtered through celite to remove the catalyst. Concentration of the filtrate in vacuo provided the title compound as an amorphous white solid (11.5 g, 95%); (Found: M+ 436.1997. C25H27N2O5 requires M436.1998); νmax (KBr) 3277, 1758, 1708, 1655, 1542, 1510 and 1246 cm-1 ; δH (CDCl3) 1.43 (1H, m), 1.78-1.95 (3H, m), 2.10-2.50 (4H, m), 3.62 (2H, s), 3.75 (3H, s), 3.91 (2H, m), 4.17 (1H, m), 4.24 (1H, m), 5.29 (1H, dd, J 7.8, 5.0 Hz), 6.73 (1H, d, J 7.8 Hz, exch.), 6.81 (2H, d, J 9.0 Hz) and 7.25-7.36 (7H, m).

reactant | (3S,4R)-1-(4-methoxyphenyl)-4-[3-oxo-3-[(S)-tetrahydro-furan-2-yl]propenyl]-3-phenylacetamidoazetidin-2-one | 27.9 mmol, 12.1 g | COC1=CC=C(C=C1)N1C([C@H]([C@H]1C=CC([C@H]1OCCC1)=O)NC(CC1=CC=CC=C1)=O)=O | C25H26N2O5
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | (3S,4R)-1-(4-Methoxyphenyl)-4-[3-oxo-3-[(S)-tetrahydrofuran-2-yl]propyl]-3-phenylacetamidoazetidin-2-one | 11.5 g, 95% | COC1=CC=C(C=C1)N1C([C@H]([C@H]1CCC([C@H]1OCCC1)=O)NC(CC1=CC=CC=C1)=O)=O | C25H28N2O5
